datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc2[nH]cc(CC(C)[NH2:10])c2c1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc2[nH]cc(CC(C)[NH2+:10][H:20])c2c1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)N1CS(=O)CC1C(=O)[O:21][H:20].CC(=O)[N-:10]c1ccc(S(=O)(=O)NC2=NC=CS2)cc1>>CC(=O)N1CS(=O)CC1C(=O)[O-:21].CC(=O)[N:10](c1ccc(S(=O)(=O)NC2=NC=CS2)cc1)[H:20] 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C)[n+:21]([H:20])c12.Cn1c[n:10]c2cc(O)ccc21>>Cc1cc(-c2ccccc2)nn2cc(C)[n:21]c12.Cn1c[n+:10]([H:20])c2cc(O)ccc21 10=20;20,21=21",
"BrCC[NH2:10].CN(C)C=[N+:21](c1ccccc1O)[H:20]>>BrCC[NH2+:10][H:20].CN(C)C=[N:21]c1ccccc1O 10=20;20,21=21",
"CC(C)CCOc1ccccc1/C=C\C(=O)[O:21][H:20].O=[N+]([O-])[O-:10]>>CC(C)CCOc1ccccc1/C=C\C(=O)[O-:21].O=[N+]([O-])[O:10][H:20] 10=20;20,21=21",
"Clc1ccc(/C=C/c2n[n+:21]([H:20])nn2-c2ccccc2)cc1.O=C(c1csc(Br)n1)[O-:10]>>Clc1ccc(/C=C/c2n[n:21]nn2-c2ccccc2)cc1.O=C(c1csc(Br)n1)[O:10][H:20] 10=20;20,21=21",
"C=Cc1cccc[n+:21]1[H:20].c1ccc(NC(Nc2ccccc2)=[NH:10])cc1>>C=Cc1cccc[n:21]1.c1ccc(NC(Nc2ccccc2)=[NH+:10][H:20])cc1 10=20;20,21=21",
"CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccc2ccccc2[n+:21]1[H:20].Nc1ccc2[nH]c[n:10]c2c1>>Cc1ccc2ccccc2[n:21]1.Nc1ccc2[nH]c[n+:10]([H:20])c2c1 10=20;20,21=21",
"CC1(C)[C@@H](N)[C@@H]1[NH2+:21][H:20].ONc1nc[n:10]c2nc[nH]c12>>CC1(C)[C@@H](N)[C@@H]1[NH2:21].ONc1nc[n+:10]([H:20])c2nc[nH]c12 10=20;20,21=21",
"CNc1nnn[n-:10]1.COc1ccc(-c2nc3c[n+:21]([H:20])ccc3n2C)c(OC)c1>>CNc1nnn[n:10]1[H:20].COc1ccc(-c2nc3c[n:21]ccc3n2C)c(OC)c1 10=20;20,21=21",
"CN1CCCC[N+:21]1(C)[H:20].Cc1ccc(C)c(C(c2ccccc2)=[NH:10])c1>>CN1CCCC[N:21]1C.Cc1ccc(C)c(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
"C(=N\[O-:10])\c1ccco1.c1cnc2c[n+:21]([H:20])ccc2n1>>C(=N\[O:10][H:20])\c1ccco1.c1cnc2c[n:21]ccc2n1 10=20;20,21=21",
"CC(=O)Nc1ccc([NH2+:21][H:20])cc1.c1ccc(Cc2nc(-c3ccccc3)oc2[O-:10])cc1>>CC(=O)Nc1ccc([NH2:21])cc1.c1ccc(Cc2nc(-c3ccccc3)oc2[O:10][H:20])cc1 10=20;20,21=21",
"O=S(=O)(Nc1cncnc1)c1ccc([NH2+:21][H:20])cc1.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O-:10]>>O=S(=O)(Nc1cncnc1)c1ccc([NH2:21])cc1.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)Cc1cc(Br)ccc1[O-].C[n+]1cnc2c(ncc([O-])[n+:21]2[H:20])c1[O-]>>CC[N+:10](CC)(Cc1cc(Br)ccc1[O-])[H:20].C[n+]1cnc2c(ncc([O-])[n:21]2)c1[O-] 10=20;20,21=21",
"C1CCC[NH:10]CC1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CCC[NH+:10]([H:20])CC1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"COc1ccccc1/C(c1ccccc1)=[NH+:21]\[H:20].Cl/C(=N/[O-:10])c1ccccc1>>COc1ccccc1C(c1ccccc1)=[NH:21].Cl/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"Cc1ccc2ccc([O-:10])cc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc2ccc([O:10][H:20])cc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc([O-])[nH+]c[n:10]1.O=C1C(/C=C/c2ccccc2)=C([O:21][H:20])C(=O)c2ccccc21>>Cc1cc([O-])[nH+]c[n+:10]1[H:20].O=C1C(/C=C/c2ccccc2)=C([O-:21])C(=O)c2ccccc21 10=20;20,21=21",
"Cc1[nH+]c2cccc([NH2+:21][H:20])c2n1C.Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH-:10]>>Cc1[nH+]c2cccc([NH2:21])c2n1C.Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH:10][H:20] 10=20;20,21=21",
"CNCC(C)C[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CNCC(C)C[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1=[N:10]CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.O=C([O-])C1CC[NH+:21]1[H:20]>>CC1=[N+:10]([H:20])CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.O=C([O-])C1CC[NH:21]1 10=20;20,21=21",
"COC(=O)c1ccc([N-:10]C=S)cc1.COc1ccc([O:21][H:20])cc1>>COC(=O)c1ccc([N:10](C=S)[H:20])cc1.COc1ccc([O-:21])cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCCC[NH2+]CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCCC[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"CNc1sc(-c2ccccc2)n[n+:21]1[H:20].CS(=O)c1cccc([O-:10])c1>>CNc1sc(-c2ccccc2)n[n:21]1.CS(=O)c1cccc([O:10][H:20])c1 10=20;20,21=21",
"CC(C#N)(Cc1ccccc1)C(=O)[O-:10].Clc1ccnc2c1ccc1c(Cl)cc[n+:21]([H:20])c12>>CC(C#N)(Cc1ccccc1)C(=O)[O:10][H:20].Clc1ccnc2c1ccc1c(Cl)cc[n:21]c12 10=20;20,21=21",
"C/C(=N\[O:21][H:20])C(=O)c1ccccc1.ON=C(c1ccccc1)[N-:10]O>>C/C(=N\[O-:21])C(=O)c1ccccc1.ON=C(c1ccccc1)[N:10](O)[H:20] 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:21](C)(C)[H:20]>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:21](C)C 10=20;20,21=21",
"CCCCCCCC[NH:10]CCC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O-:10].O=[N+]([O-])c1ccc([O:21][H:20])c(C[NH+]2CCCCC2)c1>>CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O:10][H:20].O=[N+]([O-])c1ccc([O-:21])c(C[NH+]2CCCCC2)c1 10=20;20,21=21",
